US06403610B1
0.15 g of sodium borohydride was added portionwise at a temperature in the region of 20° C. and under an inert atmosphere to a stirred solution of 1.59 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-3-carboxylate in 25 cm3 of methanol. The mixture was subsequently stirred for 75 minutes at a temperature in the region of 20° C. 15 cm3 of distilled water were then added while maintaining the same temperature. The mixture, with a milky appearance, was concentrated under reduced pressure (5 kPa) at a temperature in the region of 30° C. The residue obtained was taken up in 40 cm3 of distilled water to which have been added 80 cm3 of dichloromethane, stirred, and then separated by settling. The organic phase was withdrawn and then washed with one times 40 cm of water and dried over magnesium sulfate. After filtering through paper and then evaporating the solvent under reduced pressure (5 kPa) at a temperature in the region. of 40° C., 1.39 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-3-carboxylate were obtained in the form of a sticky solid with a foamy appearance and an orange color.

reactant | sodium borohydride | 0.15 g | [BH4-].[Na+]
reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-3-carboxylate | 1.59 g | O=C(CC[C@H]1[C@H](CN(CC1)CCCC1=CC=CC=C1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H34N2O4
reactant | dichloromethane | 80 cm3 | ClCCl | CH2Cl2
solvent | methanol | 25 cm3 | CO | CH4O
solvent | water | 40 cm3 | O | H2O
solvent | water | 15 cm3 | O | H2O
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-3-carboxylate | 1.39 g | OC(CC[C@H]1[C@H](CN(CC1)CCCC1=CC=CC=C1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H36N2O4
